US07491718B2
methyl 2-({[2-(methoxycarbonyl)phenyl]sulfonyl}amino)-5,6,7,8-tetrahydro-1-naphthalenecarboxylate
A solution of Example 418A (1.81 g, 8.35 mmol) in dichloromethane (25.5 mL) was treated with chlorotrimethylsilane (6.7 mL of 1M CH2Cl2 solution, 16.7 mmol) and pyridine (25.5 mL), stirred at room temperature for 10 minutes, treated with methyl 2-(chlorosulfonyl)benzoate (2.61 g, 11.11 mmol), stirred overnight at room temperature, and treated with 1N HCl (50 mL). The aqueous phase was extracted with dichloromethane two times and the combined organic phases were washed with water and brine, dried (MgSO4), filtered, and concentrated. The resulting residue was purified by preparative HPLC to provide the desired product. MS (ESI(+)) m/e 404 (M+H)+; 480 (M+Na)+; (ESI(−)) m/e 402 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 9.14 (s, 1H), 7.77-7.65 (m, 4H), 7.12 (d, 1H), 6.98 (d, 1H), 3.01 (s, 3H), 3.63 (s, 3H), 2.68 (br s, 2H), 2.53 (br s, 2H), 1.66 (br m, 4H).

reactant | chlorotrimethylsilane | 16.7 mmol, 1M, 6.7 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | pyridine | 25.5 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl 2-(chlorosulfonyl)benzoate | 11.11 mmol, 2.61 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | dichloromethane | 25.5 mL | ClCCl | CH2Cl2
product | methyl 2-({[2-(methoxycarbonyl)phenyl]sulfonyl}amino)-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC1=C(C=2CCCCC2C=C1)C(=O)OC | C20H21NO6S
